US07655670B2
1-((tetrahydropyran-2-yl)oxy-ethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one (Compound #47)
Pd(dba)2 (0.068 g, 0.109 mmol), rac-BINAP (0.078 g, 0.085 ml) and sodium tert-butoxide (0.22 g, 2.28 mmol) were combined into a pressure flask. To the reaction mixture was then added dry 1,4-dioxane (3 mL) under nitrogen and the resulting mixture stirred for 1 minute. To the reaction mixture was then added, under nitrogen, a solution of 4-{(2-bromo-phenyl)-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-carbamoyl}-piperidine-1-carboxylic acid tert-butyl ester (0.78 g, 1.52 mmol) in dry 1,4-dioxane (9 mL). The pressure flask was sealed and degassed under high vacuum and left under nitrogen. The reaction mixture was stirred at 110° C. for 6 hours and then partitioned with aqueous 0.5 M citric acid, water and methylene chloride. The organic layer was washed with brine, dried with Na2SO4, filtered and the solvent evaporated in vacuo to yield a solid. The solid was purified via flash chromatography (50% ethyl acetate/hexanes) to yield the title compound as a foam.

reactant | rac-BINAP | 0.085 ml, 0.078 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 2.28 mmol, 0.22 g | CC(C)([O-])C.[Na+]
reactant | 4-{(2-bromo-phenyl)-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-carbamoyl}-piperidine-1-carboxylic acid tert-butyl ester | 1.52 mmol, 0.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N(CCOC1OCCCC1)C1=C(C=CC=C1)Br)=O | C24H35BrN2O5
reactant | 1,4-dioxane | 9 mL | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dba)2 | 0.109 mmol, 0.068 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 1-((tetrahydropyran-2-yl)oxy-ethyl)-5-tert-butoxycarbonyl-spiro[indoline-3,4′-piperidin]-2-one | O1C(CCCC1)OCCN1C(C2(CCNCC2)C2=CC(=CC=C12)C(=O)OC(C)(C)C)=O | C24H34N2O5
